US05324747
A mixture of 10 g (0.047 mol) of nitroterephthalic acid, 40 ml of thionyl chloride and 1 ml of anhydrous DMF was stirred at reflux for 5 hours. The reaction mixture was concentrated at reduced pressure and the residual acid chloride was dissolved in anhydrous THF and added dropwise over 30 minutes to a stirred, ice bath cooled solution of 25 ml (0.126 mol) of decylamine and 15 ml (0.108 mol) of triethylamine in 100 ml of anhydrous THF. Additional THF (50 ml) was added and stirring was continued for 17 hours at room temperature. Water (1 L) was added and the precipitate was filtered and recrystallized from methanol-water to give 20.4 g, mp 159°-160° of N-[2,5-bis[(decylamino)carbonyl]nitrobenzene.

reactant | nitroterephthalic acid | 0.047 mol, 10 g | [N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)C(=O)O | C8H5NO6
reactant | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
reactant | decylamine | 0.126 mol, 25 ml | C(CCCCCCCCC)N | C10H23N
reactant | triethylamine | 0.108 mol, 15 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | Water | 1 L | O | H2O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 2,5-bis[(decylamino)carbonyl]nitrobenzene | C(CCCCCCCCC)NC(=O)C1=C(C=C(C=C1)C(=O)NCCCCCCCCCC)[N+](=O)[O-] | C28H47N3O4
